US04083953
A mixture consisting of ethyl 3-acetyl-4-hydroxy-benzoate (6 g) and 2-nitro-benzaldehyde (5 g) dissolved in ethanol (100 ml and piperidine (100 ml) was kept at reflux temperature for 24 hours. The mixture was then cooled, diluted in water (800 ml), acidified with hydrochloric acid, extracted with ethylacetate, washed with water and evaporated to dryness to obtain as raw product, 6-carbomethoxy-2'-nitro-flavanone. This product (6.8 g) was dissolved in chloroform (40 ml) and treated with a solution of benzoyl peroxide (0.15 g) and N-bromosuccinimide (3.8 g) dissolved in chloroform (60 ml). The mixture was kept at reflux temperature for 4 hours, then evaporated to dryness under vacuum at low temperature; then the residue, dissolved in ethanol 95% (150 ml), was treated with sodium hydrate 4 N (25 ml) at room temperature for a night. After acidification with hydrochloric acid and filtration, 6-carboxy-2'-nitro-flavone (3.7 g) was obtained, which was subsequently treated with stannous chloride (20 g) in concentrated hydrochloric acid (15 ml) and glacial acetic acid (15 ml) at reflux temperature for 4 hours. After cooling, dilution with water, neutralisation with ammonium hydrate 28 Be, the precipitate was filtered to give, after crystallisation from dimethylformamide, 6-carboxy-2'-amino-flavone (1.8 g; m.p. > 300° C).

reactant | ethyl 3-acetyl-4-hydroxy-benzoate | 6 g | C(C)(=O)C=1C=C(C(=O)OCC)C=CC1O | C11H12O4
reactant | 2-nitro-benzaldehyde | 5 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | piperidine | 100 ml | N1CCCCC1 | C5H11N
solvent | water | 800 ml | O | H2O
product | 6-carbomethoxy-2'-nitro-flavanone | C(=O)(OC)C=1C=C2C(CC(OC2=CC1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C17H13NO6
